US05563141
To a solution of methyl 4-bromoquinolin-6-yloxyacetate (169 mg) in isopropanol(10 ml) was added 1-(4-pyridyl)piperazine (93 mg) followed by 2 drops of saturated ethereal HCl. The resulting mixture was refluxed for 18 hours. The mixture was filtered and concentrated. Purification by flash column chromatography on silica, eluting with methanol/dichloromethane (10% to 15% v/v in 1% increments) gave methyl 4-[4-(4-pyridyl)piperazin-1-yl]quinolin-6-yloxyacetate (74 mg) as a solid: NMR(d6DMSO) δ3.2-3.4(m,4H), 3.6-3.7(m,4H), 3.75(s, 3H), 5.0(s,2H), 6.95(d,2H), 7.05(d,1H), 7.25(d,1H), 7.45(dd,1H), 7.9(d,1H), 8.25(d,2H), 8.6(d,11H); m/e 379(M+H)+.

reactant | methyl 4-bromoquinolin-6-yloxyacetate | 169 mg | BrC1=CC=NC2=CC=C(C=C12)OCC(=O)OC | C12H10BrNO3
reactant | 1-(4-pyridyl)piperazine | 93 mg | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
catalyst | HCl | 2 drops | Cl | ClH
product | methyl 4-[4-(4-pyridyl)piperazin-1-yl]quinolin-6-yloxyacetate | 74 mg | N1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC2=CC=C(C=C12)OCC(=O)OC | C21H22N4O3
